US04806539
3.3 g (10 mmol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid are heated at 60° C. in 50 ml of dimethylformamide with 1.8 g (15 mmol) of allyl bromide and 2.1 g of triethylamine for 8 hours. The mixture is concentrated in vacuo, the residue is stirred with 30 ml of water and the precipitate is filtered off with suction, washed with methanol and dried. 2.2 g of 7-(4-allyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrobromide of melting point 295°-298° (with decomposition) are obtained; after recrystallization from water, 1.5 g of melting point 300°-302° (with decomposition) are isolated.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 10 mmol, 3.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | allyl bromide | 15 mmol, 1.8 g | C(C=C)Br | C3H5Br
reactant | triethylamine | 2.1 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-(4-allyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrobromide | 2.2 g | Br.C(C=C)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | InChI=1S/C20H22FN3O3.BrH/c1-2-5-22-6-8-23(9-7-22)18-11-17-14(10-16(18)21)19(25)15(20(26)27)12-24(17)13-3-4-13;/h2,10-13H,1,3-9H2,(H,26,27);1H
